US04127646
Similarly, reaction of 3,5-diaminonitrobenzene in isobutyric acid with isobutyric anhydride furnishes the 3,5-bis-isobutyramidonitrobenzene which is further reacted as outlined in Example 2 to yield 5-acetyl-4-hydroxy-3-[1-(3,5-bis-isobutyramidophenylamino)ethylidene]-2H-pyran-2,6-(3H)-dione.

reactant | 3,5-diaminonitrobenzene | NC=1C=C(C=C(C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
product | 3,5-bis-isobutyramidonitrobenzene | C(C(C)C)(=O)NC=1C=C(C=C(C1)NC(C(C)C)=O)[N+](=O)[O-] | C14H19N3O4
